US08058293B2
(R)-tert-butyl 2-(tosyloxymethyl)azetidine-1-carboxylate
Commercially available (R)-tert-butyl 2-(hydroxymethyl)azetidine-1-carboxylate (1.8 g, 9.61 mmol) in pyridine was treated with p-toluenesulfonyl chloride (1.83 g, 9.61 mmol). The reaction mixture was stirred at room temperature for 20 h then poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water (3×75 mL) and then dried (MgSO4), filtered, and concentrated in vacuo to afford the titled compound. MS (DCI) m/z 342 (M+H)+.

reactant | (R)-tert-butyl 2-(hydroxymethyl)azetidine-1-carboxylate | 9.61 mmol, 1.8 g | OC[C@@H]1N(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | p-toluenesulfonyl chloride | 9.61 mmol, 1.83 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (R)-tert-butyl 2-(tosyloxymethyl)azetidine-1-carboxylate | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1N(CC1)C(=O)OC(C)(C)C | C16H23NO5S
